US08202858B2
1-Cyclopropylmethyl-piperidine-4-carboxylic Acid 4-[(4-chloro-phenyl)-methyl-carbamoyl]-2-methyl-benzylamide
PyBroP (212 mg, 0.45 mmol) and 1-cyclopropylmethyl-piperidine-4-carboxylic acid from Example E15a (76 mg, 0.42 mmol) were added to a solution of 4-aminomethyl-N-(4-chloro-phenyl)-3,N-dimethyl-benzamide from Example E115.2 (100 mg, 0.35 mmol) in dichloromethane (5 ml) and DMF (1 ml). The mixture was stirred at room temperature for 18 h then solvents were removed in vacuo and azeotroped with toluene. The residue was purified by preparative HPLC (eluant; 0.5% 35% ammonia:9.5% methanol:90% dichloromethane) to give a white powder identified as the title compound (34 mg, 22%).

reactant | PyBroP | 0.45 mmol, 212 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | 1-cyclopropylmethyl-piperidine-4-carboxylic acid | C1(CC1)CN1CCC(CC1)C(=O)O | C10H17NO2
reactant | 4-aminomethyl-N-(4-chloro-phenyl)-3,N-dimethyl-benzamide | NCC1=C(C=C(C(=O)N(C)C2=CC=C(C=C2)Cl)C=C1)C | C16H17ClN2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-Cyclopropylmethyl-piperidine-4-carboxylic Acid 4-[(4-chloro-phenyl)-methyl-carbamoyl]-2-methyl-benzylamide | 34 mg, 22% | ClC1=CC=C(C=C1)N(C(=O)C1=CC(=C(CNC(=O)C2CCN(CC2)CC2CC2)C=C1)C)C | C26H32ClN3O2
